US06051712
A solution of 9.5 g (33.6 mmol) of (RS)-2-[3-(2-methoxy-phenylsulphanyl)-propoxy]-tetrahydro-pyran and 1.0 g (4 mmol) of pyridinium toluene-4-sulphonate in 100 ml of methanol was heated to reflux for 2 hours. For the working-up, the solvent was distilled off under reduced pressure and then the residue was partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The organic phase was subsequently dried over sodium sulphate and evaporated under reduced pressure. The 3-(2-methoxy-phenylsulphanyl)-propane-1-ol was obtained as a yellowish liquid in quantitative yield; MS: 198 (M)+. Reaction with mesyl chloride, effected according to a generally known procedure, yielded 3-(2-methoxy-phenylsulphanyl)-propyl methanesulphonate as a pale yellow liquid; MS: 276 (M)+.

reactant | (RS)-2-[3-(2-methoxy-phenylsulphanyl)-propoxy]-tetrahydro-pyran | 33.6 mmol, 9.5 g | COC1=C(C=CC=C1)SCCCOC1OCCCC1 | C15H22O3S
reactant | pyridinium toluene-4-sulphonate | 4 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 100 ml | CO | CH4O
product | 3-(2-methoxy-phenylsulphanyl)-propane-1-ol | quantitative yield | COC1=C(C=CC=C1)SCCCO | C10H14O2S
